USRE039591E1
Step 233b. O-(3-quinolyl)methylhydroxylamine
N-(3-quinolyl)methoxy phthalimide (0.69 g) was suspended in 95% EtOH and hydrazine (0.10 mL) was added. The reaction mixture was stirred overnight and then filtered. The filtrate was concentrated under reduced pressure and then taken up in a small amount of dichloromethane. The small amount of remaining phthalhydrazide was then removed by filtration. The filtrate was concentrated under reduced pressure to give the title compound (0.42 g) as a yellow oil. MS(CI) m/e 175 (M+H)+.

reactant | N-(3-quinolyl)methoxy phthalimide | 0.69 g | N1=CC(=CC2=CC=CC=C12)CON1C(C=2C(C1=O)=CC=CC2)=O | C18H12N2O3
reactant | hydrazine | 0.10 mL | NN | H4N2
solvent | EtOH | CCO | C2H6O
product | O-(3-quinolyl)methylhydroxylamine | 0.42 g | N1=CC(=CC2=CC=CC=C12)CON | C10H10N2O
